US06248765B1
3-(1H-Imidazol-4-yl)propyl 4-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl ether
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 6 mmol of (5-methyl-1,2,4-oxadiazol-3-yl)phenol (prepared according to Swain, C. J. et al. J. Med. Chem. 1991, 34, 140) are treated as described in Example 56, but isolated in the form of the free base.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | (5-methyl-1,2,4-oxadiazol-3-yl)phenol | 6 mmol | CC1=NC(=NO1)C1=C(C=CC=C1)O | C9H8N2O2
product | 3-(1H-Imidazol-4-yl)propyl 4-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl ether | CC1=NC(=NO1)C1=CC=C(C=C1)OCCCC=1N=CNC1 | C15H16N4O2
